data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC=CCCCC1SCCC[S:10]1.C[S:20][S+:21](C)C.[B-](F)(F)(F)F>>CC=CCCCC1SCCC[S+:10]1[S:20]C.C[S:21]C.[B-](F)(F)(F)F 10=20;20,21=21
C[NH2:10].[CH3:20][I:21]>>C[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
[H:20][O+:21]=C(CCC(=O)OCC)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNC(=[O:21])CCC(=O)OCC 10=20;20,21=21
C[NH+:21](C)[Cl:20].C[S:10]C>>C[NH:21]C.C[S+:10](C)[Cl:20] 10=20;20,21=21
C[CH+:20][O:10][Ti-](Cl)(Cl)(Cl)Cl>>C[CH:20]=[O+:10][Ti-](Cl)(Cl)(Cl)Cl 10=20,
[H:20][CH:21](C(=O)OCC)SC1=[N+]2C(COC2(CCC1)C)C3=CC=CC=C3.CC[N:10](CC)CC.[Br-]>>[H:20][N+:10](CC)(CC)CC.CCOC(=O)[CH-:21]SC1=[N+]2C(COC2(CCC1)C)C3=CC=CC=C3.[Br-] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.C1CCC2(C1)CCCC2[OH:10]>>[H:20][OH+:10]C1CCCC12CCCC2.OP(=O)(O)[O-:21] 10=20;20,21=21
CCC[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OC(C)(C)C.CC[NH+](CC)CC.CC(=O)[O-]>>CCC[C:20](=[O:10])OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
CCN[C:20](C)([O-:10])[O:21]C(=O)C>>CCN[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC[CH:10]=[C:11](O)[OH:12]>>[H:20][CH:10](COCC)[C:11](=[OH+:12])O.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C(F)(F)F.CCC1(C2=C(COC1=O)C(=O)N3CCC(C3=C2)(O)[O:10]CCO)O.C1CCOC1.O>>[H:20][O+:10](CCO)C1(CCN2C1=CC3=C(C2=O)COC(=O)C3(CC)O)O.C(=O)(C(F)(F)F)[O-:21].C1CCOC1.O 10=20;20,21=21
[H:20][F:21].[CH2:10]=[CH:11]CCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCC1=CC=CC=C1.[F-:21] 10,11=10,20;20,21=21
C[O:10][CH2:20][I:21]>>C[O+:10]=[CH2:20].[I-:21] 10=20;20,21=21
COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)[CH2:20][O:21][P+:22](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)OC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-:10])OCC3=CC=CC=C3)OC.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)[CH2:20][O:10]C(=O)C3=C(C4=C(C=C(C=C4C=C3OCC5=CC=CC=C5)OC)OC)OC)OC.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
C1C2[CH2:10][C:11](C1C=C2)([CH2:20][N+:21]#N)[O-:12]>>N#[N:21].[CH2:10]1[CH2:20][C:11](=[O:12])C2CC1C=C2 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.C1CC2(C(C3C1CCN3CCS(=O)C4=CC=CC=C4)C5=C(N2)C=CC=C5)[NH2:10].O>>[H:20][NH2+:10]C12CCC3CCN(C3C1C4=C(N2)C=CC=C4)CCS(=O)C5=CC=CC=C5.CC(=O)[O-:21].O 10=20;20,21=21
C1CC(=[O+][C:20](C(=O)Cl)([O-:10])[Cl:21])C=C1O>>C1CC(=[O+][C:20](=[O:10])C(=O)Cl)C=C1O.[Cl-:21] 10=20;20,21=21
CC[SH:10].C[C:22](=[OH+:23])[CH:21]=[CH2:20]>>CC[SH+:10][CH2:20][CH:21]=[C:22](C)[OH:23] 10=20;22,23=23;20,21=21,22
CCO[C:20](=[O:21])C.C[C:10](=C)[Mg:11]Br>>CCO[C:20](C)([C:10](=C)C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
C[CH:20]=[NH+:21]C.[F-:10]>>C[CH:20]([NH:21]C)[F:10] 10=20;20,21=21
CCCC1CC2=C(C(=C(C=C2)OC)O)[C:20]3(C1CC[C:11](=[CH:10]3)[O-:12])[OH:21].C(=O)O[Na].O.[OH2+][Na]>>CCCC1CC2=C([C:20]3=[CH:10][C:11](=[O:12])CCC13)C(=C(C=C2)OC)O.[OH-:21].C(=O)O[Na].O.[OH2+][Na] 10,11=10,20;20,21=21;12=11
[H:20][CH:21](CC)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].CC[CH-:21][N+](=O)[O-] 10=20;20,21=21
[H:20][OH+:21][Na].CCCC1CC2=C(C(=C(C=C2)OC)O)C3(C1CCC(=O)C3)[O-:10].C(=O)O[Na].O>>[H:20][O:10]C12CC(=O)CCC1C(CC3=C2C(=C(C=C3)OC)O)CCC.[OH:21][Na].C(=O)O[Na].O 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC(=C2)[N+](=O)[O-] 10=20;20,21=21,22
[BH3:20].CCCC(=[O:10])OCCC>>[BH3-:20][O+:10]=C(CCC)OCCC 10=20,
CO[Si:20](C)(C)C.[F-:10]>>CO[Si-:20](C)(C)(C)[F:10] 10=20,
[H:20][OH2+:21].C1=CC(=C(C=C1)NC(=O)C[NH2:10])C(=O)C2=NC=CC=C2.[Cl-]>>[H:20][NH2+:10]CC(=O)NC1=C(C=CC=C1)C(=O)C2=NC=CC=C2.[OH2:21].[Cl-] 10=20;20,21=21
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC2=CC=CC3=C2C(=C1)C(=O)N(C3=O)CCC[O-:10].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CCCN4C(=O)C5=C6C(=CC=C5)C=CC=C6C4=O)Br.C1CC(=O)NC1=O 10=20,
CCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>CCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][NH+:21](C1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC)N=O.[OH2:10].[B-](F)(F)(F)F.[Cl-]>>[H:20][OH2+:10].CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH:21]N=O)OC.[B-](F)(F)(F)F.[Cl-] 10=20;20,21=21
C[C:20](C)([C:21](=[N+]=[N-])P(=O)(OC)OC)[O-:10]>>C[C:20](=[O:10])C.COP(=O)([C-:21]=[N+]=[N-])OC 10=20;20,21=21
CCOC(=O)C[CH2:20][O:21]S(=O)Cl.[Cl-:10]>>CCOC(=O)C[CH2:20][Cl:10].[O-:21]S(=O)Cl 10=20;20,21=21
[B-:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([CH2:12][CH:11]=[CH:10]C)[O+:21]=[CH:20]C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C>>[B:13]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)[O:21][CH:20]([CH:10](C)[CH:11]=[CH2:12])C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C 10,11=10,20;20,21=21;12,13=11,12
CC[NH2:10].CC(=O)[CH2:20][Br:21]>>CC[NH2+:10][CH2:20]C(=O)C.[Br-:21] 10=20;20,21=21
[CH:20]1=[CH:21][C:22](=[O:23])C(=O)C=C1CC(C(=O)O)[NH2:10].O>>C1C([NH2+:10][CH:20]2C1=CC(=O)[C:22](=[CH:21]2)[O-:23])C(=O)O.O 10=20;22,23=23;20,21=21,22
